US06943159B1
A mixture of 2-nitrophenylboronic acid (2 g; 12 mmol) and 5% Pd/C (100 mg) in EtOH (100 ml) was hydrogenated at 1 bar until TLC indicated complete conversion of starting material. The reaction mixture was filtered through celite and the filtrate evaporated to dryness. The remanense was washed with hexane and filtered to give 900 mg of (55%) 2-aminophenylboronic acid.

reactant | 2-nitrophenylboronic acid | 12 mmol, 2 g | [N+](=O)([O-])C1=C(C=CC=C1)B(O)O | C6H6BNO4
solvent | EtOH | 100 ml | CCO | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 2-aminophenylboronic acid | 900 mg, 55% | NC1=C(C=CC=C1)B(O)O | C6H8BNO2
